US07053107B2
2-{3-[2-(5-Ethyl-pyridin-2-yl)-vinyl]-1H-indazol-6-ylamino}-benzoic acid
To a solution of 2-{3-[2-(5-Ethyl-pyridin-2-yl)-vinyl]-1H-indazol-6-ylamino}-benzoic acid methyl ester (50 mg, 0.104 mmol) in methanol (0.42 mL) and THF (0.10 mL) was added a solution of sodium hydroxide (12 mg, 0.311 mmol) in water (0.05 mL). The solution was heated to 60 degrees Celsius for 3.5 hours and then neutralized with saturated NH4Cl. The reaction was diluted with water (20 mL), and then extracted with EtOAc (2×20 mL). The combined extracts were first dried over Na2SO4, and then the solids were removed by filtration. The desired product (48.7 mg, 100%) was recovered after rotary evaporation to remove the solvents.

reactant | 2-{3-[2-(5-Ethyl-pyridin-2-yl)-vinyl]-1H-indazol-6-ylamino}-benzoic acid methyl ester | 0.104 mmol, 50 mg | COC(C1=C(C=CC=C1)NC1=CC=C2C(=NNC2=C1)C=CC1=NC=C(C=C1)CC)=O | C24H22N4O2
reactant | sodium hydroxide | 0.311 mmol, 12 mg | [OH-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | methanol | 0.42 mL | CO | CH4O
solvent | THF | 0.10 mL | C1CCOC1 | C4H8O
solvent | water | 0.05 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 2-{3-[2-(5-Ethyl-pyridin-2-yl)-vinyl]-1H-indazol-6-ylamino}-benzoic acid | C(C)C=1C=CC(=NC1)C=CC1=NNC2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1 | C23H20N4O2
